US07459562B2
C) 4-(4-(1-Benzyl-2-oxo-1,2-dihydropyridine-3-carboxamido)-2-fluorophenoxy)picolinamide
A homogeneous solution of 1-benzyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid (0.10 g, 0.41 mmol, 1.0 eq), 4-(4-amino-2-fluorophenoxy)picolinamide (0.10 g, 0.41 mmol, 1.0 eq) and TBTU (0.17 g, 0.45 mmol, 1.1 eq) in DMF (2 mL) was treated with DIPEA (0.18 mL, 1.0 mmol, 2.5 eq) at room temperature and the reaction mixture was stirred for 12 h. The reaction mixture was quenched with 10% aqueous LiCl (15 mL) and the resulting solution was extracted with ethyl acetate (4×40 mL). The combined organic extracts were washed with 10% aqueous LiCl (4×50 mL), dried (Na2SO4), filtered and the filtrate concentrated in vacuo. The residue was purified by flash column chromatography (SiO2, eluting with ethyl acetate) to afford the product (0.13 g, 67%) as a solid. 1H NMR (DMSO-d6) δ 12.26 (s, 1H), 8.49-8.56 (m, 2H), 8.33-8.36 (m, 1H), 8.15 (br m, 1H), 8.03-8.07 (m, 1H), 7.74-7.75 (m, 1H), 7.51-7.54 (m, 1H), 7.41-7.46 (m, 4H), 7.20-7.24 (m, 3H), 6.71 (dd, 1H, J=6.89 Hz), 5.32 (s, 2H)HRMS(ESI+), Calcd.: 477.1374, found: 477.1378.

reactant | 1-benzyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 0.41 mmol, 0.10 g, 1.0 eq | C(C1=CC=CC=C1)N1C(C(=CC=C1)C(=O)O)=O | C13H11NO3
reactant | 4-(4-amino-2-fluorophenoxy)picolinamide | 0.41 mmol, 0.10 g, 1.0 eq | NC1=CC(=C(OC2=CC(=NC=C2)C(=O)N)C=C1)F | C12H10FN3O2
reactant | TBTU | 0.45 mmol, 0.17 g, 1.1 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 1.0 mmol, 0.18 mL, 2.5 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-(4-(1-Benzyl-2-oxo-1,2-dihydropyridine-3-carboxamido)-2-fluorophenoxy)picolinamide | 0.13 g, 67% | C(C1=CC=CC=C1)N1C(C(=CC=C1)C(=O)NC1=CC(=C(OC2=CC(=NC=C2)C(=O)N)C=C1)F)=O | C25H19FN4O4
